US06987116B2
A mixture of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile (160 mg, 0.34 mmol), 1-methyl-4-prop-2-ynyl-piperazine (70 mg, 0.5 mmol), 15 mg of tetrakis(triphenylphosphine)palladium(0) and copper iodide (8 mg, 0.016 mmol) in 7 mL of benzene and 2 mL of triethylamine is heated at reflux for 7 hours. The reaction mixture is cooled to room temperature and partitioned between water and dichloromethane. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is triturated with ether and hexanes to provide 110 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(4-methylpiperazin-1-yl)prop-1-ynyl]thieno[2,3-b]pyridine-5-carbonitrile as an off white solid, mp 175° C. (decomposition); 1H NMR (DMSO-d6) δ 2.17 (s, 3H), 2.37 (bs, 4H), 2.54 (bs, 4H), 3.62 (s, 2H), 3.85 (s, 3H), 7.38 (s, 1H), 7.76 (s, 1H), 7.91 (s, 1H), 8.47 (bs, 1H), 9.83 (bs, 1H); MS 486.2 (M+H)+.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[2,3-b]pyridine-5-carbonitrile | 0.34 mmol, 160 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)I | C15H8Cl2IN3OS
reactant | 1-methyl-4-prop-2-ynyl-piperazine | 0.5 mmol, 70 mg | CN1CCN(CC1)CC#C | C8H14N2
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.016 mmol, 8 mg | [Cu](I)I
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(4-methylpiperazin-1-yl)prop-1-ynyl]thieno[2,3-b]pyridine-5-carbonitrile | 110 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)C#CCN2CCN(CC2)C | C23H21Cl2N5OS
